US07049310B2
Preparation of (E)-3-(6-aminopyridin-3-yl)-N-(7-fluoro-1-methyl-1H-indol-3-ylmethyl)-N-methylacrylamide
According to the procedure of Example 24, except substituting 7-fluoro-1-methyl-3-(methylaminomethyl)-1H-indole (0.2 g, 1.04 mmole) for the 2,3-dihydro-8-(methylaminomethyl)-1H-3a-azacyclopenta[a]indene, and substituting (E)-3-(6-aminopyridin-3-yl)acrylic acid (0.17 g, 1.04 mmole) for the (E)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylic acid hydrochloride salt, the title compound (0.1 g, 27%) was prepared as an off-white powder: MS (ES) m/e 339 (M+H)+.

reactant | 7-fluoro-1-methyl-3-(methylaminomethyl)-1H-indole | 1.04 mmole, 0.2 g | FC=1C=CC=C2C(=CN(C12)C)CNC | C11H13FN2
reactant | 2,3-dihydro-8-(methylaminomethyl)-1H-3a-azacyclopenta[a]indene | CNCC1=C2N(C=3C=CC=CC13)CCC2 | C13H16N2
reactant | (E)-3-(6-aminopyridin-3-yl)acrylic acid | 1.04 mmole, 0.17 g | NC1=CC=C(C=N1)/C=C/C(=O)O | C8H8N2O2
reactant | (E)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylic acid hydrochloride salt | Cl.O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)O
product | (E)-3-(6-aminopyridin-3-yl)-N-(7-fluoro-1-methyl-1H-indol-3-ylmethyl)-N-methylacrylamide | 0.1 g, 27% | NC1=CC=C(C=N1)/C=C/C(=O)N(C)CC1=CN(C2=C(C=CC=C12)F)C | C19H19FN4O
